US05446189
To 30 g (0.14 mol) of 5-nitroisophthalic acid suspended in 120 ml of thionyl chloride was added 2 ml of DMF and the solution was stirred at reflux for 3.5 hours. The excess thionyl chloride was removed at reduced pressure and the residual acid chloride was dissolved in 220 ml of anhydrous tetrahydrofuran. This solution was added dropwise to 64 ml (0.32mol) of decyl amine and 44 ml (0.32 mol) of triethylamine in 350 ml of anhydrous tetrahydrofuran over 30 minutes with ice bath cooling. The reaction mixture was stirred at room temperature for 4 hours and then poured into 3 L of water. The resultant solid was removed by filtration and recrystallized from methanol to give 51.5 g (74% yield, mp 115°-116°) of N,N'-didecyl-5-nitro-1,3-benzenedicarboxamide.

reactant | 5-nitroisophthalic acid | 0.14 mol, 30 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H5NO6
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | decyl amine | 0.32mol, 64 ml | C(CCCCCCCCC)N | C10H23N
reactant | triethylamine | 0.32 mol, 44 ml | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 120 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | water | 3 L | O | H2O
product | N,N'-didecyl-5-nitro-1,3-benzenedicarboxamide | 51.5 g, 74% yield | C(CCCCCCCCC)NC(=O)C1=CC(=CC(=C1)[N+](=O)[O-])C(=O)NCCCCCCCCCC | C28H47N3O4
